US04075238
Preparation of 2,3,5,6-tetrachloro-p-tolualdehyde
When the procedure of Example 64 was carried by replacing tetrachloro-p-xylene with an equimolar amount (27.6g) of 2,3,5,6-tetrachloro-p-xylene-α ,α'-diol, a strong evolution of sulfur dioxide was observed (identified qualitatively by iodine paper), but the resultant solution did not turn purple, instead it acquired a brown amber color. After a 4 hour of heating period between 90° and 94° C, the clear solution was poured, after it cooled to room temperature, onto ice, yielding a yellow slurry. Since filtration was sluggish, the slurry was extracted with diethyl ether, yielding, after evaporation of the solvent 19.0 g of bright yellow solids, whose identity was determined by infrared and nuclear magnetic resonance spectra, which matched those described in Example 64.

reactant | tetrachloro-p-xylene | ClC1=C(C(=C(C(=C1C)Cl)Cl)C)Cl | C8H6Cl4
reactant | 2,3,5,6-tetrachloro-p-xylene-α ,α'-diol | 27.6g | ClC1=C(C(=C(C(=C1Cl)CO)Cl)Cl)CO | C8H6Cl4O2
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | iodine | II | I2
product | 2,3,5,6-tetrachloro-p-tolualdehyde | ClC1=C(C(=C(C(=C1Cl)C=O)Cl)Cl)C | C8H4Cl4O
